US06455528B1
Synthesis of N-(4-((4-Phenylpiperazin-1-yl)methyl)phenylmethyl)propionamide
A solution of 4-((4-(aminomethyl)phenyl)methyl)-1-phenylpiperazine (0.62 g), propionyl chloride (0.23 ml) and triethylamine (0.37 ml) in methylene chloride (20 ml) was stirred at room temperature for 4 hr. To this reaction mixture was added chloroform (100 ml), and the mixture was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a pale-brown solid (0.9 g). The obtained solid was crystallized from ethyl acetate (50 ml) to give the title compound (0.5 g) as pale-yellow white crystals, m.p.=140-141° C.

reactant | 4-((4-(aminomethyl)phenyl)methyl)-1-phenylpiperazine | 0.62 g | NCC1=CC=C(C=C1)CN1CCN(CC1)C1=CC=CC=C1 | C18H23N3
reactant | propionyl chloride | 0.23 ml | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.37 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(4-((4-Phenylpiperazin-1-yl)methyl)phenylmethyl)propionamide | 0.9 g | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(CC)=O | C21H27N3O
